US06653308B2
A mixture of 5-Formyl-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid (1.0 gm, 4.36 mmol), 1-amino-3-diethylamino-2-propanol (950 mg, 6.54 mmol), DDC (900 mg, 4.36 mmol) and HOBt (884 mg, 6.54 mmol) in chloroform (60 mL) was stirred at rt for 12 hrs. The reaction was poured into sat. Sodium bicarbonate (60 mL) and to it was added 1N NaOH (8 mL). It was then extracted with EtOAc (3×100 mL), washed with water and brine, dried and concentrated to give 400 mg of 5-Formyl-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid (3-diethylamino-2-hydroxy-propyl)-amide.

reactant | 5-Formyl-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid | 4.36 mmol, 1.0 gm | C(=O)C1=C(C(=C(N1)C)C(=O)O)C1=CC=CC=C1 | C13H11NO3
reactant | 1-amino-3-diethylamino-2-propanol | 6.54 mmol, 950 mg | NCC(CN(CC)CC)O | C7H18N2O
reactant | HOBt | 6.54 mmol, 884 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Sodium bicarbonate | 60 mL | C([O-])(O)=O.[Na+]
reactant | NaOH | 1N, 8 mL | [OH-].[Na+]
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-Formyl-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid (3-diethylamino-2-hydroxy-propyl)-amide | 400 mg | C(C)N(CC(CNC(=O)C1=C(NC(=C1C1=CC=CC=C1)C=O)C)O)CC | C20H27N3O3
